US04261888
3.6 g of H-MePhe-OH are dissolved in a mixture of ter.-butanol, 25 ml of 10% aqueous KHCO3 solution and 5 ml of 4 N sodium hydroxide. 8 ml of di-tert.-butylcarbonate are added and the mixture stirred for 2 days at room temperature. The reaction mixture is diluted with ca. 100 ml of water and extracted with ether. The aqueous phase is acidified, with stirring to pH 2. The precipitated product is extracted with acetic acid, the extract washed with water and dried over Na2SO4. The liquid is evaporated and the product crystallised from ether/petroleum ether to yield Boc-MePHe-OH. M.P. 87°.

reactant | H-MePhe-OH | 3.6 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C | C10H13NO2
reactant | butanol | C(CCC)O | C4H10O
reactant | sodium hydroxide | 4 N, 5 ml | [OH-].[Na+]
reactant | di-tert.-butylcarbonate | 8 ml | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
solvent | water | ca. 100 ml | O | H2O
product | Boc-MePHe-OH | CC(C)(C)OC(=O)N(C)[C@@H](CC1=CC=CC=C1)C(=O)O | C15H21NO4
